US04723006
3,56 Parts of 2-amino-4-chloro-6-chloromethylpyrimidine and 2.24 parts of potassium t-butoxide were dissolved in 60 parts of n-butanol at room temperature then the solution was heated at 50° C. for 2 hours, with stirring. After this time, the solution was cooled and evaporated in vacuo. The residue was partitioned between ethyl acetate and water and the organic phase was separated and washed three times with water then dried (MgSO4). Evaporation of the solvent gave the crude product which was purified by chromatography on silica (Merck Kieselgel 60) eluted with ether to give 2-amino-4-n-butoxy-6-chloromethylpyrmidine as an oil.

reactant | 2-amino-4-chloro-6-chloromethylpyrimidine | NC1=NC(=CC(=N1)Cl)CCl | C5H5Cl2N3
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | n-butanol | C(CCC)O | C4H10O
product | 2-amino-4-n-butoxy-6-chloromethylpyrmidine | NC1=NC(=CC(=N1)OCCCC)CCl | C9H14ClN3O
